Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Overdose
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ male with no past medical history who
presents as a transfer from ___ due to a Tylenol ingestion
with intent of suicide attempt at 9:00 last night.  Next

The patient is a sophomore at the ___.  He is studying architecture, which he enjoys. 
However, over the past several months, he has felt overwhelmed
with his course load.  He reports he is sleeping less ___ hours
of sleep at night), and has not had time for things he 
previously
enjoyed (working out at the gym, spending time with friends). 
Despite his attempts at keeping himself working, he feels he is
falling behind.  He states that "no matter what I do, it's not
good enough" for his ___ professor.  

Compounding this is the fact that he is worried about some legal
trouble.  He states that he found a debit card on the ground
recently, which was not his (and he did not know the owner).  He
ended up using the debit card to make some purchases for a few
items.  Lately, he states that he has been being pursued by the
card owner who is coming after him for these unauthorized
purchases.  He does not believe that this episode was reported 
to
the police, but he did say that somebody "read [him his] ___
rights" over these purchases.  He is worried that this will 
cause
him to lose his scholarships at ___, as he values his work
at school and does not want to lose these opportunities.  

At ___, Pt was found to have LFTs of AST 79 and ALT 89 was
started on ___. He received first loading dose and was receiving
2nd dose en route. He was transferred to ___ for liver
transplant evaluation if necessary.

 
Past Medical History:
None
 
Social History:
___
Family History:
Hypertension and diabetes.  Two cousins with early-onset breast
cancer in their ___.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS:
___ Temp: 98.8 PO BP: 126/73 L Lying HR: 77 RR: 20 O2
sat: 99% O2 delivery: Ra 

GENERAL: Interactive black male, lying in bed with somewhat sad
affect. In no acute distress.  
HEENT: Sclerae anicteric, MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  No dullness or
hyperresonance to percussion.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No hepatomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. +2 posterior
tibialis pulses bilaterally.
NEUROLOGIC: CN II-XII grossly intact. AOx3.  There is no
asterixis or pronator drift.

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 1245)
    Temp: 98.7 (Tm 98.7), BP: 101/60 (101-114/60-71), HR: 81
(64-81), RR: 18 (___), O2 sat: 99% (97-100), O2 delivery: Ra  

GENERAL: Awake, alert, comfortable
CARDIAC: RRR, normal s1/s2, no murmurs
LUNGS: Comfortable on room air
ABDOMEN: Nontender, nondistended
PSYCH: normal affect

 
Pertinent Results:
ADMISSION LABS
===============
___ 04:20PM BLOOD WBC-9.1 RBC-4.82 Hgb-12.9* Hct-40.0 
MCV-83 MCH-26.8 MCHC-32.3 RDW-14.2 RDWSD-43.1 Plt ___
___ 04:20PM BLOOD Neuts-49 Bands-0 ___ Monos-10 Eos-0 
Baso-0 Atyps-3* ___ Myelos-0 AbsNeut-4.46 AbsLymp-3.73* 
AbsMono-0.91* AbsEos-0.00* AbsBaso-0.00*
___ 04:20PM BLOOD Hypochr-OCCASIONAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 04:20PM BLOOD ___ PTT-28.3 ___
___ 04:20PM BLOOD Plt Smr-NORMAL Plt ___
___ 04:20PM BLOOD Glucose-132* UreaN-8 Creat-0.9 Na-141 
K-3.9 Cl-102 HCO3-23 AnGap-16
___ 04:20PM BLOOD ALT-79* AST-66* AlkPhos-70 TotBili-0.5
___ 04:20PM BLOOD Albumin-4.3 Calcium-9.2 Phos-3.2 Mg-2.0
___ 04:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:00AM BLOOD Acetmnp-NEG
___ 04:40PM BLOOD Lactate-1.1

DISCHARGE LABS
==============
___ 08:10AM BLOOD WBC-7.3 RBC-4.94 Hgb-13.3* Hct-41.0 
MCV-83 MCH-26.9 MCHC-32.4 RDW-13.9 RDWSD-41.9 Plt ___
___ 08:08AM BLOOD ___ PTT-29.1 ___
___ 08:10AM BLOOD Glucose-88 UreaN-12 Creat-1.0 Na-142 
K-4.4 Cl-103 HCO3-26 AnGap-13
___ 08:08AM BLOOD ALT-248* AST-165* AlkPhos-81 TotBili-0.___RIEF HOSPITAL SUMMARY
======================
___ is a ___ man with no past medical history who presented 
after a suicide attempt by ingesting Tylenol ___ (50g 
Acetaminophen + 2.5g Diphenhydramine). NAC was initiated 16 
hours later and his acetaminophen level was normal at 20 hours. 
He as placed on a section 12a hold and was treated with NAC for 
several days until his LFTs downtrended. He was then discharged 
to an inpatient psychiatric facility. 

ACTIVE ISSUES
=============
# ACETAMINOPHEN OVERDOSE
# DIPHENHYDRAMINE OVERDOSE
Known ingestion time 9PM on ___, NAC started 16h later 1PM on 
___. He was persistently asymptomatic with no abdominal pain, 
nausea, vomiting, and with no signs of anticholinergic toxicity. 
His acetaminophen level was negative approximately 20 hours 
after time of ingestion and his INR was persistently normal. NAC 
was continued until his LFTs downtrended. 

# SUICIDE ATTEMPT
Likely in setting of significant social stressors, legal 
concern, and poor social support (no friends he talks to 
routinely). First episode with no prior attempts. He did meet 
some SIGECAPS criteria for major depression (sleep changes, 
decreased appetite, suicidal ideation, difficulty concentrating) 
but given the acute time course it was difficult to rule out 
adjustment disorder. Psychiatry was consulted and placed a 
section 12a hold on admission. He persistently denied SI/HI 
throughout his hospitalization, appeared of normal affect, and 
reported a good mood. On discharge he was transferred to an 
inpatient psychiatric facility.

#CODE:  Full (confirmed with patient)
#CONTACT:  Mother, ___ (___)
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
# ACETAMINOPHEN OVERDOSE
# DIPHENHYDRAMINE OVERDOSE
# SUICIDE ATTEMPT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was our pleasure to care for you at ___. You came to the 
hospital because of a Tylenol overdose.

WHAT HAPPENED IN THE HOSPITAL?
- We treated you with a medication called NAC and watched while 
your liver improved.
- Our psychiatry team evaluated you and felt that you would be 
safest receiving inpatient psychiatric treatment.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?

We wish you the best!

Sincerely,
Your care team at ___
 
Followup Instructions:
___